US08048899B2
To a solution of 21 mg (0.041 mmol) of 2-(2,4-Difluoro-benzenesulfonyl)-N-{3-[2-(4-methoxy-benzyloxy)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-propionamide in DCE (1 ml) and 4M HCl solution (0.5 mL), a few drops of water are added and the reaction mixture stirred over night for 18 h. The solvents are removed to yield 18 mg of 2-(2,4-difluoro-benzenesulfonyl)-N-[3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-propionamide. Yield 100%, ES-MS: m/z 403 [M+H].

reactant | 2-(2,4-Difluoro-benzenesulfonyl)-N-{3-[2-(4-methoxy-benzyloxy)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-propionamide | 0.041 mmol, 21 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)C(C(=O)NC1=CC(=NO1)C(COCC1=CC=C(C=C1)OC)(C)C)(C)C | C25H28F2N2O6S
solvent | DCE | 1 ml | ClCCCl | C2H4Cl2
solvent | HCl | 4M, 0.5 mL | Cl | ClH
catalyst | water | a few drops | O | H2O
product | 2-(2,4-difluoro-benzenesulfonyl)-N-[3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-propionamide | 18 mg, Yield 100% | FC1=C(C=CC(=C1)F)S(=O)(=O)C(C(=O)NC1=CC(=NO1)C(CO)(C)C)(C)C | C17H20F2N2O5S
